US05652246
Stage B: 1-Benzyl-4-[(3,4-dichlorophenyl)amino]piperidine
190 mmol of 1-benzyl-4-piperidone, 240 mmol of 3,4-dichloroaniline, 0.02 g of PTSA and 200 ml of toluene are placed in a round-bottomed flask equipped with a reflux condenser and a Dean and Stark apparatus. The whole mixture is brought to reflux for 24 hours. After evaporation of the solvent, the residue is taken up in 500 ml of methanol and 450 mmol of sodium borohydride are progressively added. The whole mixture is kept stirring for two days. The expected product is obtained after concentration by filtration of the precipitate formed.

reactant | 1-benzyl-4-piperidone | 190 mmol | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 3,4-dichloroaniline | 240 mmol | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | PTSA | 0.02 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | sodium borohydride | 450 mmol | [BH4-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyl-4-[(3,4-dichlorophenyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC(=C(C=C1)Cl)Cl | C18H20Cl2N2
